US05023255
(a) N-(3-Phenoxyphenyl)glycine methyl ester (Intermediate 48)
A mixture of 3-phenoxyaniline (25 g, 0.135 mol), sodium bicarbonate (22.7 g, 0.27 mol) and methyl chloroacetate (15.5 ml, 0.2025 mol) was heated at 90°-100° C. with vigorous stirring for 20 h. The mixture was allowed to cool to room temperature and was then poured into water (200 ml) and extracted with dichloromethane (2×100 ml). The organic extract was washed with 2N hydrochloric acid (2×100 ml), water (2×100 ml) and then dried and evaporated to give a grey/green solid. This was triturated with hexane (400 ml) and filtered to give the title compound as a grey/green solid (18.4 g, 53%), m.p 44°-45°.

reactant | 3-phenoxyaniline | 0.135 mol, 25 g | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
reactant | sodium bicarbonate | 0.27 mol, 22.7 g | C([O-])(O)=O.[Na+]
reactant | methyl chloroacetate | 0.2025 mol, 15.5 ml | ClCC(=O)OC | C3H5ClO2
solvent | water | 200 ml | O | H2O
product | N-(3-Phenoxyphenyl)glycine methyl ester | 18.4 g, 53% | COC(CNC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C15H15NO3
